### PR TITLE
Refactor some lookup and truncation lemmas

### PR DESCRIPTION
**Pull request by jamesmckinna**
~~Most of the way there, but I would like to introduce a definition of~~
Refactored to take advantage of:
```agda
truncate : (m≤n : m ≤ n) (xs : Vec A n) → Vec A m
```
and add: ~~a version of (itself refactored by this PR... ;-))~~
```agda
lookup-take-inject≤ : lookup (take m xs) i ≡ lookup xs (Fin.inject≤ i (m≤m+n m n))
```
~~which then makes use of it. But currently in `cast` hell... cf. #2057~~
UPDATED: Ugh! RTFL... The follies of ignorance... and there being rather scant properties of the function `truncate` already defined in `Data.Vec.Base`. 

Moving to draft status while I sort out the signal from the noise... NOW DONE. And with no plans to add to this PR further.

### CODE REVIEW

**Comment by jamesmckinna** [comment]
Ugh! I've run out of steam with this one, but it's a start.

**Comment by shhyou** [comment]
(FWIW, I have `cast-sym` as `CastReasoning.≈-sym` in #2067)

**Comment by jamesmckinna** [comment]
I introduced `cast-sym` thinking that I could use it to unfold `take≤`, but as it turned out, I couldn't push it all the way to the end. So it's (probably) removable. In any case, with all the PRs flying around at the moment, a period of sober reflection and post hoc rationalisation is probably in order...

File: src/Data/Vec/Properties.agda [hunk 1]
```diff
@@ -348,6 +365,13 @@ cast-is-id eq (x ∷ xs) = cong (x ∷_) (cast-is-id (suc-injective eq) xs)
 subst-is-cast : (eq : m ≡ n) (xs : Vec A m) → subst (Vec A) eq xs ≡ cast eq xs
 subst-is-cast refl xs = sym (cast-is-id refl xs)
 
+cast-sym : (eq : m ≡ n) {xs : Vec A m} {ys : Vec A n} →
```
[the remark this answers is not in the document]
Comment (jamesmckinna) [reply src/Data/Vec/Properties.agda:368]: Re: irrelevance. Thanks for the hint! Commit incoming.

[the remark this answers is not in the document]
Comment (jamesmckinna) [reply src/Data/Vec/Properties.agda]: Re: orientation of `cast-sym`... also a good suggestion. Thanks! 
Haven't tried your alternative (and clever!) proof strategy (yet)...

File: src/Data/Fin/Properties.agda [hunk 2]
```diff
@@ -547,12 +547,21 @@ inject≤-idempotent {_} {suc n} {suc o} zero    _   _   _ = refl
...
 inject≤-injective : ∀ (m≤n m≤n′ : m ℕ.≤ n) i j →
                     inject≤ i m≤n ≡ inject≤ j m≤n′ → i ≡ j
 inject≤-injective (s≤s p) (s≤s q) zero    zero    eq = refl
 inject≤-injective (s≤s p) (s≤s q) (suc i) (suc j) eq =
   cong suc (inject≤-injective p q i j (suc-injective eq))
 
+inject≤-irrelevant : ∀ (m≤n m≤n′ : m ℕ.≤ n) i →
+                    inject≤ i m≤n ≡ inject≤ i m≤n′
+inject≤-irrelevant (s≤s p) (s≤s q) zero    = refl
+inject≤-irrelevant (s≤s p) (s≤s q) (suc i) = cong suc (inject≤-irrelevant p q i)
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:563]: Why are we proving this by induction? Can't we do something like `cong (inject≤ i) (≤-irrelevant p1 p2)`

https://github.com/agda/agda-stdlib/blob/85829575904d9d7afc7a5ecc2b6902365f9cd564/src/Data/Nat/Properties.agda#L175

File: src/Data/Vec/Properties.agda [hunk 3]
```diff
@@ -122,6 +122,20 @@ truncate-trans : ∀ {p} (m≤n : m ≤ n) (n≤p : n ≤ p) (xs : Vec A p) →
 truncate-trans z≤n       n≤p       xs = refl
 truncate-trans (s≤s m≤n) (s≤s n≤p) (x ∷ xs) = cong (x ∷_) (truncate-trans m≤n n≤p xs)
 
+truncate-irrelevant : (m≤n₁ m≤n₂ : m ≤ n) → truncate {A = A} m≤n₁ ≗ truncate m≤n₂
+truncate-irrelevant {m = zero}  m≤n₁ m≤n₂ _        = refl
+truncate-irrelevant (s≤s m≤n₁) (s≤s m≤n₂) (x ∷ xs) = cong (x ∷_) (truncate-irrelevant m≤n₁ m≤n₂ xs)
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:127]: Again shouldn't need to recurse here.

**Review by MatthewDaggitt — COMMENTED** [review]
Otherwise looks good.

File: src/Data/Fin/Properties.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Data/Fin/Properties.agda:563]: Of course! Oh dear... I think I probably need to go back to school about the whole issue of `Irrelevant` propositions in the library, and the relation between *proving* irrelevance, and the typechecker being able to *observe* it.

File: src/Data/Vec/Properties.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Data/Vec/Properties.agda:127]: Indeed...

**Comment by jamesmckinna** [comment]
That merge conflict resolution should do the trick?
